US06492416B1
50 mg of 2-{4-(methylsulfonyl)phenyl}-1-oxa-spiro[4,5]dec-2-en-4-one was reacted with bromine (0.5 ml) in the presence of 0.1 ml acetic acid to yield 68 mg of 3-bromo-2-{4-(methylsulfonyl)phenyl}-1-oxa-spiro[4,5]dec-2-en-4-one by following a procedure similar to the procedure in Step 5 of Example 53. mp: 163-164° C. NMR: δ1.79 (m, 10H), 3.11 (s, 3H), 8.10 (d, J=8.1 Hz, 2H), 8.40 (d, J=8.1 Hz, 2H). IR (cm−1): 2936, 1709, 1583, 1316, 1149, 912, 744.

reactant | 2-{4-(methylsulfonyl)phenyl}-1-oxa-spiro[4,5]dec-2-en-4-one | 50 mg | CS(=O)(=O)C1=CC=C(C=C1)C=1OC2(C(C1)=O)CCCCC2 | C16H18O4S
reactant | bromine | 0.5 ml | BrBr | Br2
solvent | acetic acid | 0.1 ml | C(C)(=O)O | C2H4O2
product | 3-bromo-2-{4-(methylsulfonyl)phenyl}-1-oxa-spiro[4,5]dec-2-en-4-one | 68 mg | BrC1=C(OC2(C1=O)CCCCC2)C2=CC=C(C=C2)S(=O)(=O)C | C16H17BrO4S
